US05994368
To a stirred solution of 8-benzyloxy-4-hydroxy-2-methylquinoline (5.00 g) and 2,6-lutidine (3.03 g) and 4-dimethylaminopyridine (230 mg) in dichloromethane (80 ml) was added trifluoromethanesulfonic anhydride (5.85 g) dropwise in an ice bath. The reaction mixture was stirred at the same temperature for half an hour and then at ambient temperature for an hour. The mixture was poured into saturated ammonium chloride (100 ml), extracted with chloroform and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo and the residual solid was crystallized from 90% aqueous acetonitrile (100 ml) and collected to give 8-benzyloxy-2-methyl-4-(trifluoromethanesulfonyloxy)quinoline (6.58 g) as white powder.

reactant | 8-benzyloxy-4-hydroxy-2-methylquinoline | 5.00 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)O | C17H15NO2
reactant | 2,6-lutidine | 3.03 g | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 5.85 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
catalyst | 4-dimethylaminopyridine | 230 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 8-benzyloxy-2-methyl-4-(trifluoromethanesulfonyloxy)quinoline | 6.58 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)OS(=O)(=O)C(F)(F)F | C18H14F3NO4S
